US05082971
35 g of 2,3,4-trifluoro-5-nitro-benzotrifluoride in 150 ml of tetrahydrofuran were initially introduced into a hydrogenation apparatus, 3 g of Raney nickel were added and, after flushing with nitrogen, the mixture was hydrogenated to constant pressure with 30 bar of hydrogen at 25° to 45° C. After completion of the hydrogen uptake, the pressure was released and the reaction solution was filtered and subsequently fractionally distilled. 27 g of 2,3,4-trifluoro-5-amino-benzotrifluoride were obtained with a boiling point of 82° to 83° C. at 15 mbar.

reactant | 2,3,4-trifluoro-5-nitro-benzotrifluoride | 35 g | FC1=C(C=C(C(=C1F)F)[N+](=O)[O-])C(F)(F)F | C7HF6NO2
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
catalyst | Raney nickel | 3 g | [Ni] | Ni
product | 2,3,4-trifluoro-5-amino-benzotrifluoride | 27 g | FC1=C(C=C(C(=C1F)F)N)C(F)(F)F | C7H3F6N
